US06143763
To acetic acid (100 ml) is added 2-chloro-6-{3-[1-methyl-3-cyclohexyl-3-(2-acetyloxybutyl)ureido]propoxy}quinoline (5.5 g), and the mixture is refluxed for 4 hours. The mixture is concentrated under reduced pressure to remove the acetic acid, and the residue is dissolved in methylene chloride and washed with a saturated aqueous sodium hydrogen carbonate solution. The mixture is dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography (solvent; methylene chloride:methanol=20:1), and recrystallized from methylene chloride-diethyl ether to give 6-{3-[1-methyl-3-cyclohexyl-3-(2-acetyloxybutyl)ureido]propoxy}carbostyril (2.7 g) as a white powder.

reactant | 2-chloro-6-{3-[1-methyl-3-cyclohexyl-3-(2-acetyloxybutyl)ureido]propoxy}quinoline | 5.5 g | ClC1=NC2=CC=C(C=C2C=C1)OCCCN(C(=O)N(CC(CC)OC(C)=O)C1CCCCC1)C | C26H36ClN3O4
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 6-{3-[1-methyl-3-cyclohexyl-3-(2-acetyloxybutyl)ureido]propoxy}carbostyril | 2.7 g | CN(C(=O)N(CC(CC)OC(C)=O)C1CCCCC1)CCCOC=1C=C2C=CC(NC2=CC1)=O | C26H37N3O5
